* C:\Users\vsridh252\Documents\personal\coilgun\full-voltage-doubler\fullwave-doubler-1V02-02.asc
V1 N005 N001 SINE(0 325 50 0)
C1 N002 N005 10µf V=6.3 Irms=34m Rser=1.3 Lser=0
M1 N004 N006 0 0 IPB65R420CFD
D1 N001 N002 D
D2 0 N001 D
C2 N005 0 10µf V=6.3 Irms=34m Rser=1.3 Lser=0
C3 N002 N004 4700µ V=6.3 Irms=34m Rser=100m Lser=0
C4 N006 0 47µf V=6.3 Irms=34m Rser=2.4 Lser=0
R1 N002 N006 1Meg
D3 0 N006 BZX84C6V2L
R4 N002 N003 1Meg
R2 N004 N003 2K
XU1 N003 N004 N006 N007 PC817 Igain=2.3m
Q1 N006 N007 0 0 BC547B
.model D D
.lib C:\Users\vsridh252\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\vsridh252\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vsridh252\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 0 1m
.lib PC817.sub
.backanno
.end
